US09193669B2
Tin(II) chloride dihydrate was added (6.5 g, 28.67 mmol) to a solution of 2,2,2-trifluoro-N-(3-(3-nitrophenyl)prop-2-ynyl)acetamide (1.95 g, 7.16 mmol) in ethanol and the reaction mixture was stirred under reflux overnight. The mixture was concentrated under reduced pressure to give dark brown viscous liquid which was partitioned between saturated aqueous NaHCO3 and EtOAc. Organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to give N(3-(3-aminophenyl)prop-2-ynyl)-2,2,2-trifluoroacetamide as brown oil. Yield (0.75 g, 43%); 1H NMR (400 MHz, DMSO-d6) δ 7.28 (s, 1H), 6.94 (t, J=7.8 Hz, 1H), 6.44-6.37 (m, 3H), 5.09 (bs, 2H), 3.99 (s, 2H).

reactant | Tin(II) chloride dihydrate | O.O.[Sn](Cl)Cl
reactant | 2,2,2-trifluoro-N-(3-(3-nitrophenyl)prop-2-ynyl)acetamide | 7.16 mmol, 1.95 g | FC(C(=O)NCC#CC1=CC(=CC=C1)[N+](=O)[O-])(F)F | C11H7F3N2O3
solvent | ethanol | C(C)O | C2H6O
product | N(3-(3-aminophenyl)prop-2-ynyl)-2,2,2-trifluoroacetamide | NC=1C=C(C=CC1)C#CCNC(C(F)(F)F)=O | C11H9F3N2O
